US07678815B2
A solution of sodium nitrite (57.30 g, 830.60 mmol) in water (710.00 ml) was treated with ethyl cyanoacetate (100.00 g, 884.00 mmol). 85% Orthophosphoric acid (36.60 ml, 540.00 mmol) was added dropwise over 45 min, while keeping the temperature of the reaction mixture below 35° C. with the aid of an ice bath. At the end of the addition, the mixture was warmed to 40° C. and stirred for 1 hour. The reaction was quenched at 45° C. with fuming HCl (73.90 ml, 880.00 mmol), and the mixture was then left to cool to room temperature and at 0° C. overnight to complete precipitation. The solid was filtered, the filtrate washed with water and dried under high vacuum overnight to yield 70 g of cyano-hydroxyimino-acetic acid ethyl ester as white crystals. A second batch was obtained by extracting the mother liquor with ether (44.00 g, total yield 91%).

reactant | sodium nitrite | 830.60 mmol, 57.30 g | N(=O)[O-].[Na+]
reactant | ethyl cyanoacetate | 884.00 mmol, 100.00 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | Orthophosphoric acid | 540.00 mmol, 36.60 ml | P(O)(O)(O)=O | H3O4P
reactant | HCl | 880.00 mmol, 73.90 ml | Cl | ClH
solvent | water | 710.00 ml | O | H2O
product | cyano-hydroxyimino-acetic acid ethyl ester | 70 g | C(C)OC(C(=NO)C#N)=O | C5H6N2O3
